US07655679B2
5.0 g 4-Aminomethyl-benzonitrile and 3.75 ml Butyraldehyde were dissolved in 40 ml methanol. 3.0 g molecular sieves 4 Angström were added and the mixture was stirred at room temperature for two hours. Then 2.2 g sodium borohydride were added and the mixture was stirred for an additional hour at room temperature. 250 ml ethyl acetate were added, and the reaction was quenched by addition of 4 ml water. The reaction mixture was filtered through a pad of celite and MgSO4. The filtrate was evaporated in vacuo to provide 3.7 g crude 4-Butylaminomethyl-benzonitrile. This material was used without further purification.

reactant | 4-Aminomethyl-benzonitrile | 5.0 g | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | Butyraldehyde | 3.75 ml | C(CCC)=O | C4H8O
reactant | sodium borohydride | 2.2 g | [BH4-].[Na+]
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
product | 4-Butylaminomethyl-benzonitrile | 3.7 g | C(CCC)NCC1=CC=C(C#N)C=C1 | C12H16N2
